US04083986
A mixture of 6.4 parts of 2,5-bis-trichloromethyl-1,3,4-thiadiazole and 30 parts by volume of 91% sulfuric acid is heated for 0.1 hour at from 175° to 185° C. The reaction mixture is then carefully poured on to ice and the precipitated solid is suction filtered. The product is washed with water and treated with 20 parts by volume of methanol, and small amounts of undissolved starting material are filtered off. After concentration of the methanolic solution there is obtained 3.4 parts (83% of theory) of 2-trichloromethyl-1,3,4-thiadiazole; m.p.: 58° C.

reactant | 2,5-bis-trichloromethyl-1,3,4-thiadiazole | ClC(C=1SC(=NN1)C(Cl)(Cl)Cl)(Cl)Cl | C4Cl6N2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-trichloromethyl-1,3,4-thiadiazole | 83% | ClC(C=1SC=NN1)(Cl)Cl | C3HCl3N2S
